US05064751
To a solution of 30 g of hydrazine hydrate (80%) in 100 ml of ethanol was added dropwise 34 ml of t-butyl isocyanate under ice-cooling, followed by stirring for 1 hour. After stirring at room temperature for an additional 3 hours, a saturated aqueous solution of sodium chloride was added to the reaction solution. The mixture was extracted three ,times with ethyl acetate, and the organic layer was distilled under reduced pressure. To the residue was added 65 ml of a 10% hydrochloric acid aqueous solution. After washing with chloroform, 16 ml of a 50% aqueous solution of sodium hydroxide was added thereto, and sodium chloride was further added thereto The mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure. Recrystallization of the residue from n-hexane/ethyl acetate (9:1 by volume) to obtain 36 g of 4-t-butylsemicarbazide (melting point:109 -110 ° C.).

reactant | hydrazine hydrate | 30 g | O.NN
reactant | t-butyl isocyanate | 34 ml | C(C)(C)(C)N=C=O | C5H9NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-t-butylsemicarbazide | 36 g | C(C)(C)(C)NC(NN)=O | C5H13N3O
